US04801706
1,2-Dibenzoylhexahydro-5-[2-(4-pyridinyl)ethyl]-1H-1,2,5-triazepine
A mixture of 1,2-dibenzoyl-1H-1,2,5-triazepine (2.0 g), 4-vinylpyridine (1.42 g) and p-toluenesulfonic acid (1.21 g) in methanol (70 ml) was stirred and heated at 60° under a nitrogen atmosphere for 3 days. The foam, obtained after evaporation of the solvent, was mixed with dichloromethane and 10% sodium carbonate solution. The organic phase was washed with water until neutral washings were obtained and dried (Na2SO4). Evaporation of the solvent gave a foam, 2.25 g. The crude product was chromatographed on a column of silica gel; elution with ethanol-ethyl acetate-dichloromethane (1:4:5) giving a major component. A hydrochloride salt, 1/3 hydrate of the titled compound was formed in ethanol; wt. 1.2 g (38%), mp 247° dec.

reactant | 1,2-dibenzoyl-1H-1,2,5-triazepine | 2.0 g | C(C1=CC=CC=C1)(=O)N1N(CC=NC=C1)C(C1=CC=CC=C1)=O | C18H15N3O2
reactant | 4-vinylpyridine | 1.42 g | C(=C)C1=CC=NC=C1 | C7H7N
reactant | p-toluenesulfonic acid | 1.21 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 70 ml | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 1,2-Dibenzoylhexahydro-5-[2-(4-pyridinyl)ethyl]-1H-1,2,5-triazepine | C(C1=CC=CC=C1)(=O)N1N(CCN(CC1)CCC1=CC=NC=C1)C(C1=CC=CC=C1)=O | C25H26N4O2
